US07723348B2
3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole (0.18 g, 0.49 mmol) in N,N-dimethylformamide (6 mL) was added to a mixture of sodium hydride (29 mg, 60% in mineral oil, 0.74 mmol) and N,N-dimethylformamide (6 mL) under an atmosphere of argon, and the resulting mixture was stirred for 30 minutes. 4-iodotetrahydro-2H-pyran (0.16 g, 0.74 mmol) in N,N-dimethylformamide (6 mL) was then added and the reaction was heated at 60° C. for 50 hours. After cooling, the reaction mixture was concentrated and the residue diluted with water/acetonitrile (40 mL) and filtered (0.45 μm). The product was purified by preparative HPLC using a gradient of 20-80% acetonitrile:water (with 0.1% formic acid and a flow rate of 45 mL/min to afford 10 mg (4.6%) of 3-ethyl-6-{1-[4-methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1 (tetrahydro-2H-pyran)-1H-indazole as a yellow solid. LC/MS (EI) tR 4.54 (Method A), m/z 451.2 (M++1). 1H NMR (CDCl3) δ 1.4 (t, 3H); 1.9 (d, 2H); 2.4 (m, 2H); 3.0 (m, 1H); 3.1 (s, 3H); 3.6 (m, 3H); 4.1 (d, 2H); 4.5 (m, 1H); 6.6 (s, 1H); 6.9 (d, 1H); 7.2-7.3 (m, 3H); 7.5-7.7 (m, 2H); 7.8-7.9 (m, 2H).

reactant | 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole | 0.49 mmol, 0.18 g | C(C)C1=NNC2=CC(=CC=C12)C1=CC=NN1C1=CC=C(C=C1)S(=O)(=O)C | C19H18N4O2S
reactant | sodium hydride | 0.74 mmol, 29 mg | [H-].[Na+]
reactant | 4-iodotetrahydro-2H-pyran | 0.74 mmol, 0.16 g | IC1CCOCC1 | C5H9IO
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | (tetrahydro-2H-pyran)-1H-indazole | N1N=CC2=CC=CC=C12.O1CCCCC1 | InChI=1S/C7H6N2.C5H10O/c1-2-4-7-6(3-1)5-8-9-7;1-2-4-6-5-3-1/h1-5H,(H,8,9);1-5H2
